US03975531
2-Acetamido-3-benzoylphenylacetic Acid.
A solution of 2 g. of α-(2-methyl-3-phenylindol-7-yl)acetic acid in 60 ml. of acetic acid was treated with ozone for 15 minutes. The reaction mixture was treated with 10 ml. of water and allowed to evaporate overnight. The residue (1.7 g.) was recrystallized from isopropanol; yield 1.6 g. (71%); m.p. 188°-190°C.

reactant | α-(2-methyl-3-phenylindol-7-yl)acetic acid | CC=1NC2=C(C=CC=C2C1C1=CC=CC=C1)CC(=O)O | C17H15NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ozone | O=[O+][O-] | O3
reactant | water | O | H2O
product | 2-Acetamido-3-benzoylphenylacetic Acid | C(C)(=O)NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | C17H15NO4
